US08703096B2
5-(ethylthio)pyridin-2-amine (P9).
2-Amino-5-iodo-pyridine (2.20 g; 10 mmol), sodium ethanethiolate 80% (1.7 g; 16 mmol) and copper powder (190 mg; 3.00 mmol) were loaded into a 100 mL round bottom flask under nitrogen. Ethylene glycol (40 mL; 0.25 mol) was added and the solution stirred at 150° C. for 26 h. The cooled solution was filtered and partitioned between ethyl acetate and water twice. The organic layer was dried over barium oxide, filtered and the solvent removed in vacuo to afford 1.2 g (yield 76%) of product as yellow oil. 1H-NMR (300 MHz; CDCl3), δ 8.06 (1H, d, 4JHH=2.1 Hz, Ar—H), 7.48 (1H, dd, 3JHH=8.7 Hz, 4JHH=2.4 Hz, Ar—H), 6.42 (1H, dd, 3JHH=8.7 Hz, 5JHH=0.6 Hz, Ar—H), 2.68 (2H, q, 3JHH=7.3 Hz, CH2), 1.15 (3H, t, 3JHH=7.2 Hz, CH3).

reactant | 2-Amino-5-iodo-pyridine | 10 mmol, 2.20 g | NC1=NC=C(C=C1)I | C5H5IN2
reactant | sodium ethanethiolate | 16 mmol, 1.7 g | C(C)[S-].[Na+]
reactant | Ethylene glycol | 0.25 mol, 40 mL | C(CO)O | C2H6O2
catalyst | copper | 3.00 mmol, 190 mg | [Cu] | Cu
product | 5-(ethylthio)pyridin-2-amine | 1.2 g, yield 76% | C(C)SC=1C=CC(=NC1)N | C7H10N2S
